US06593333B1
A solution of methoxyacetyl chloride (5.85 ml) in methylene chloride (50 ml) was added dropwise to a solution of 2-fluoro-5-nitroaniline (5.06 g) and triethylamine (8.92 ml) in methylene chloride (150 ml) under an argon atmosphere. The resultant mixture was stirred at ambient temperature for 5 hours, then poured into water and extracted with methylene chloride. The organic phases were washed with brine, dried over magnesium sulphate, filtered and evaporated to dryness to yield N-(2-fluoro-5-nitrophenyl)-2-methoxyacetamide as a solid (7.7 g, 100%); NMR: 3.26 (s, 2H), 4.5 (s, 3H), 7.57 (t, 1H), 8.03 (m, 1H), 8.82 (m, 1H), 9.83 (s, 1H); m/s: M+H+ 229.

reactant | methoxyacetyl chloride | 5.85 ml | COCC(=O)Cl | C3H5ClO2
reactant | 2-fluoro-5-nitroaniline | 5.06 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | triethylamine | 8.92 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2-fluoro-5-nitrophenyl)-2-methoxyacetamide | 7.7 g, 100% | FC1=C(C=C(C=C1)[N+](=O)[O-])NC(COC)=O | C9H9FN2O4
